data/mechanism_extracts/GreenChem/10.1039_d4gc01127a.json
{"doi": "10.1039_d4gc01127a", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative coupling of cyclic beta-keto esters with styrenes to form beta-keto spirolactones via double anodic oxidation and water trapping under green solvent conditions", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis", "carbocation"], "electrochemical_role": "Anodic oxidation of the deprotonated beta-keto ester enolate to an alpha-keto radical, followed by a second anodic oxidation of the benzylic radical adduct to a benzylic carbocation; cathode reduces protons/water to H2", "key_intermediates": [{"name": "alpha-keto radical from beta-keto ester (intermediate I)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical adduct after styrene addition (intermediate II)", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation (intermediate III)", "smiles": null, "role": "reactive"}, {"name": "benzylic alcohol after water trapping (intermediate IV)", "smiles": null, "role": "transient"}], "electron_flow": "Base deprotonates the beta-keto ester; the anode oxidizes the enolate to an alpha-keto radical (I) which adds to the styrene to give a benzylic radical (II); a second anodic oxidation gives a benzylic carbocation (III), which is trapped intermolecularly by water to alcohol IV, and intramolecular lactonization affords the spirolactone, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO adduct 6 isolated in 89% yield, supporting formation of benzylic radical II; TEMPO adduct 7 of the alpha-keto radical detected by mass spectrometry"}, {"name": "H2-18O (18O-labeled water)", "smiles": null, "purpose": "isotope_label", "observation": "18O incorporated into the lactone oxygen of product 4 (48% overall yield), demonstrating that water (not the ester) supplies the lactone oxygen, consistent with mechanism A (intermolecular water attack on carbocation)"}], "evidence_types_used": ["intermediate_trap_TEMPO", "H/D_labeling", "isotope_label", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Two mechanistic pathways are considered after the carbocation III: Mechanism A (favored) involves intermolecular attack of water on the benzylic carbocation to give alcohol IV, followed by intramolecular lactonization; Mechanism B involves intramolecular ester oxygen attack to form oxocarbenium IV' followed by hydrolysis. 18O-labeling experiments support Mechanism A. Isolation of hemiketal byproducts 3s/3t is also consistent with water trapping of the carbocation. Reaction performed in acetone/water with LiClO4 electrolyte, 2,6-lutidine base, graphite anode and Ni-foam cathode, runs under batch and continuous flow."}
